US08981085B2
2,2-Dimethylcyclopropanecarboxylic acid (0.992 g, 8.69 mmol), bis(2-oxooxazolidin-3-yl)phosphinic chloride (2.21 g, 8.69 mmol) and triethylamine (2.20 g, 21.7 mmol) were added to 5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine (1 g, 4.35 mmol) in DCM (100 mL). The reaction was stirred at room temperature for 1 hour, and then 2N aqueous Na2CO3 was added. The mixture was filtered, and the solid rinsed with water and dried to yield N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2,2-dimethylcyclopropanecarboxamide (672 mg, 47.4% yield) as a solid.

reactant | 2,2-Dimethylcyclopropanecarboxylic acid | 8.69 mmol, 0.992 g | CC1(C(C1)C(=O)O)C | C6H10O2
reactant | bis(2-oxooxazolidin-3-yl)phosphinic chloride | 8.69 mmol, 2.21 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 21.7 mmol, 2.20 g | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine | 4.35 mmol, 1 g | BrC=1C(=C2C(=NC1)NC=C2N)F | C7H5BrFN3
reactant | Na2CO3 | 2N | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2,2-dimethylcyclopropanecarboxamide | 672 mg, 47.4% yield | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2C(C2)(C)C)F | C13H13BrFN3O
